US05459142
To an ethanol solution (500 ml) of 31.98 g of N-(2-hydroxyimino-4-methylpentanoyl)-(3,4,5-trimethoxy)phenylalanine methyl ester was added 180 ml of 1N-sodium hydroxide aqueous solution, and the mixture was stirred at room temperature for 13 hours. After the removal of the solvent by distillation, the residue was acidified by adding with a hydrochloric acid, then was extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous solution saturated with sodium chloride and was dried with magnesium sulfate. By removal of the solvent by distillation, 30.93 g of N-(2-hydroxyimino-4-methylpentanoyl)-(3,4,5-trimethoxy)phenylalanine was obtained.

reactant | N-(2-hydroxyimino-4-methylpentanoyl)-(3,4,5-trimethoxy)phenylalanine methyl ester | 31.98 g | COC([C@@H](NC(C(CC(C)C)=NO)=O)CC1=CC(=C(C(=C1)OC)OC)OC)=O | C19H28N2O7
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | N-(2-hydroxyimino-4-methylpentanoyl)-(3,4,5-trimethoxy)phenylalanine | 30.93 g | ON=C(C(=O)N[C@@H](CC1=CC(=C(C(=C1)OC)OC)OC)C(=O)O)CC(C)C | C18H26N2O7
